US05910498
Ethyl 8-chloro-6,7-difluoro-1-(2,4-difluoro-5-nitrophenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate
To 15 ml of sulfuric acid was added 2.5 g of ethyl 8-chloro-6,7-difluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate. With ice cooling, 950 mg of potassium nitrate was added in portions and the solution was stirred overnight at room temperature. The reaction solution was poured into ice water and stirred overnight at room temperature. The precipitate was collected by filtration and washed with water, ethanol and diethyl ether to give 2.4 g of the title compound.

reactant | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethyl 8-chloro-6,7-difluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate | 2.5 g | ClC=1C(=C(C=C2C(C(=CN(C12)C1=C(C=C(C=C1)F)F)C(=O)OCC)=O)F)F | C18H10ClF4NO3
reactant | potassium nitrate | 950 mg | [N+](=O)([O-])[O-].[K+]
product | Ethyl 8-chloro-6,7-difluoro-1-(2,4-difluoro-5-nitrophenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate | 2.4 g | ClC=1C(=C(C=C2C(C(=CN(C12)C1=C(C=C(C(=C1)[N+](=O)[O-])F)F)C(=O)OCC)=O)F)F | C18H9ClF4N2O5
